US07319104B2
A solution of ethyl 2-[4-(2-{(aminocarbonothioyl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (162 mg; 0.35 mmol) and 3-chlorophenacyl bromide (82 mg; 0.35 mmol) in EtOH (4 ml) was heated to reflux for 12 hr. Upon cooling the mixture was concentrated and the residue purified by flash chromatography using ethyl acetate-hexane mixtures (5–50% gradient) to afford ethyl 2-[4-(2-{[4-(3-chlorophenyl)-1,3-thiazol-2-yl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (128 mg; 61% yield).

reactant | ethyl 2-[4-(2-{(aminocarbonothioyl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 0.35 mmol, 162 mg | NC(=S)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C23H27F3N2O3S
reactant | 3-chlorophenacyl bromide | 0.35 mmol, 82 mg | ClC=1C=C(C(CBr)=O)C=CC1 | C8H6BrClO
solvent | EtOH | 4 ml | CCO | C2H6O
product | ethyl 2-[4-(2-{[4-(3-chlorophenyl)-1,3-thiazol-2-yl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 128 mg, 61% yield | ClC=1C=C(C=CC1)C=1N=C(SC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C31H30ClF3N2O3S
